US05663154
2-Amino-6-propylthio-9H-purine was prepared by nucleophilic displacement of the iodo group on 1-iodopropane (Aldrich Chemical Co.) by 2-amino-6-mercapto-9H-purine (Aldrich Chemical Co.) in tetrahydrofuran.

reactant | 2-amino-6-mercapto-9H-purine | NC1=NC(=C2N=CNC2=N1)S | C5H5N5S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Amino-6-propylthio-9H-purine | NC1=NC(=C2N=CNC2=N1)SCCC | C8H11N5S
